US03966957
N-(1-Cyclohexyl-3-pyrrolidinyl)-3-bromobenzamide.
To 16.2 g. (0.1 mole) of 3-amino-1-cyclohexylpyrrolidine in 100 ml. of chloroform was added with stirring 15.1 g. (0.07 mole) of 3-bromobenzoyl chloride. After stirring for one hour, the solution was extracted with dilute sodium hydroxide. The chloroform layer was dried over anhydrous sodium sulfate and concentrated. The residue was recrystallized twice from ethyl acetate-isopropyl ether. The impure crystalline material was then partitioned between ethyl acetate and dilute hydrochloric acid. The acid layer was made basic with sodium hydroxide and extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate, concentrated, and the residue recrystallized from ethyl acetate-isopropyl ether solvent. The yield was 9.1 g. (36.6%); m.p. 128°-130°C.

reactant | 3-amino-1-cyclohexylpyrrolidine | 0.1 mole | NC1CN(CC1)C1CCCCC1 | C10H20N2
reactant | 3-bromobenzoyl chloride | 0.07 mole | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(1-Cyclohexyl-3-pyrrolidinyl)-3-bromobenzamide | C1(CCCCC1)N1CC(CC1)NC(C1=CC(=CC=C1)Br)=O | C17H23BrN2O
